US04010273
3-(1-Pyrrolidinyl)-4-phenoxy-4-sulphamylbenzoic acid
The hydrochloride of the 3-(1-pyrrolidinyl)-4-phenoxy-5-aminobenzoic acid in converted in the manner described in Example 35 over the 3-(1-pyrrolidinyl)-4-phenoxy-5-chlorosulphonyl-benzoic acid into the desired 3-(1-pyrrolidinyl)-4-phenoxy-5-sulphamylbenzoic acid melting at 225°-226° C.

reactant | hydrochloride | Cl | ClH
reactant | 3-(1-pyrrolidinyl)-4-phenoxy-5-aminobenzoic acid | N1(CCCC1)C=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)N | C17H18N2O3
reactant | 3-(1-pyrrolidinyl)-4-phenoxy-5-chlorosulphonyl-benzoic acid | N1(CCCC1)C=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(=O)(=O)Cl | C17H16ClNO5S
reactant | 3-(1-pyrrolidinyl)-4-phenoxy-5-sulphamylbenzoic acid | N1(CCCC1)C=1C=C(C(=O)O)C=C(C1OC1=CC=CC=C1)S(N)(=O)=O | C17H18N2O5S
product | 3-(1-Pyrrolidinyl)-4-phenoxy-4-sulphamylbenzoic acid | N1(CCCC1)C1C=C(C(=O)O)C=CC1(S(N)(=O)=O)OC1=CC=CC=C1 | C17H20N2O5S
